US05070090
To a mixture of 29.9 parts of ethyl 4-hydroxybenzoate and 316 parts of ethanol were added portionwise 35.6 parts of sodium ethoxide. After stirring for 1/2 hour at room temperature, there was added dropwise a solution of 31.7 parts of N-hydroxypropanimidamide in 79 parts of ethanol. Stirring was continued for 1/2 hour at room temperature and overnight at reflux temperature. The reaction mixture was evaporated and the residue was taken up in water. After neutralizing with acetic acid, the precipitate was filtered off and dried. It was purified by column chromatography (HPLC; silica gel; CH2Cl2 /CH3OH 99:1). The eluent of the desired fraction was evaporated and the residue was stirred in petroleumether. The precipitate was filtered off and dried, yielding 7.56 parts (22.1%) of 4-(3-ethyl-1,2,4-oxadiazol-5-yl)phenol; mp. 137.7° C. (interm. 27).

reactant | ethyl 4-hydroxybenzoate | OC1=CC=C(C(=O)OCC)C=C1 | C9H10O3
reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | N-hydroxypropanimidamide | ONC(CC)=N | C3H8N2O
solvent | ethanol | C(C)O | C2H6O
product | 4-(3-ethyl-1,2,4-oxadiazol-5-yl)phenol | 22.1% | C(C)C1=NOC(=N1)C1=CC=C(C=C1)O | C10H10N2O2
